US07368578B2
A mixture of {1-ethyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazol-4-yl}methanol (2.19 g), activated manganese dioxide (6.0 g) and tetrahydrofuran (100 mL) was stirred at room temperature for 15 hrs. Manganese dioxide was removed by filtration and the filtrate was concentrated. The obtained crystals were collected by filtration to give 1-ethyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazole-4-carbaldehyde (1.95 g, yield 89%). Recrystallization from ethyl acetate-hexane gave colorless prism crystals. melting point: 103-104° C.

reactant | {1-ethyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazol-4-yl}methanol | 2.19 g | C(C)N1N=C(C(=C1)CO)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C23H25N3O6
catalyst | manganese dioxide | 6.0 g | [O-2].[O-2].[Mn+4]
solvent | tetrahydrofuran | 100 mL | O1CCCC1 | C4H8O
product | 1-ethyl-3-[(4-{[2-(2-furyl)-5-methyl-1,3-oxazol-4-yl]methoxy}-3-methoxybenzyl)oxy]-1H-pyrazole-4-carbaldehyde | 1.95 g, yield 89% | C(C)N1N=C(C(=C1)C=O)OCC1=CC(=C(C=C1)OCC=1N=C(OC1C)C=1OC=CC1)OC | C23H23N3O6
